US07576115B2
Synthesis of 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-(1-hydroxyisobutyl)thiophene
To a solution of 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-formylthiophene (3.0 g, 10 mmol) in THF (2.5 mL), 2.0 M ethyl ether solution (6.0 mL, 12 mmol) of isopropylmagnesium bromide was added dropwise under cooling with ice, followed by stirring for 2.5 hours under cooling with ice. A saturated ammonium chloride aqueous solution was added to the reaction solution, and then extraction was carried out with ethyl acetate, and the organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous sodium sulfate. The obtained organic layer was concentrated, and then purification was carried out with a silica gel column chromatography (n-hexane/ethyl acetate=3/1) to obtain the desired product as a pale yellow oil (1.18 g, yield 34%).

reactant | 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-formylthiophene | 10 mmol, 3.0 g | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1OCOC)C=O | C17H20O3S
reactant | ethyl ether | 12 mmol, 2.0 M, 6.0 mL | C(C)OCC | C4H10O
reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-(1-hydroxyisobutyl)thiophene | 1.18 g, yield 34% | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1OCOC)C(C(C)C)O | C20H28O3S
